US04075207
Preparation of 5,6-Dichloro-2-methyl-thiazolo(4,5-b)pyrazine
A mixture of 9.8 g. (0.05 mol.) of 2-amino-5,6-dichloro-3-mercaptopyrazine and 5.1 g. (0.05 mol.) of acetic anhydride in 100 ml. of xylene was heated at 110° C. for 1 hour. The reaction mixture was cooled, another 5.1 g. of acetic anhydride was added and heating at 110° C. was continued for 15 hours. The reaction mixture was concentrated under reduced pressure to give a dark oil, which solidified under isopropanol-hexane while cooling in ice. The dark solid was purified by sublimation to give 7 g. (64% yield) of white solid, m.p. 58°-60° C.

reactant | 2-amino-5,6-dichloro-3-mercaptopyrazine | 0.05 mol | NC1=NC(=C(N=C1S)Cl)Cl | C4H3Cl2N3S
reactant | acetic anhydride | 0.05 mol | C(C)(=O)OC(C)=O | C4H6O3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5,6-Dichloro-2-methyl-thiazolo(4,5-b)pyrazine | 64% yield | ClC1=C(N=C2C(=N1)N=C(S2)C)Cl | C6H3Cl2N3S
